US07759363B2
c. Preparation of 4-{[(2-tert-butyl-1H-benzoimidazole-4-carbonyl)amino]methyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2-tert-butyl-1H-benzoimidazole-4-carboxylic acid hydrochloride (1.11 g, 4.37 mmol) in anhydrous N,N-dimethylformamide (5 mL) was added 1,1′-carbonyldiimidazole (0.77 g, 4.75 mmol). The solution was stirred at 50° C. for 2 h, then 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester (0.94 g, 4.39 mmol) was added, followed by 1,4-diazabicyclo[2,2,2]octane (1.46 g, 13 mmol). The solution was stirred at 50° C. for 16 h, allowed to cool and diluted with water (20 mL) and ethyl acetate (60 mL). The aqueous layer was removed, the organic layer washed with water (20 mL), dried over sodium sulfate and concentrated in vacuo to afford the title intermediate (1.32 g, 3.18 mmol, 73%) which was used without further purification. (m/z): [M+H]+ calcd for C23H34N4O3 415.27; found 415.5.

reactant | 2-tert-butyl-1H-benzoimidazole-4-carboxylic acid hydrochloride | 4.37 mmol, 1.11 g | Cl.C(C)(C)(C)C1=NC2=C(N1)C=CC=C2C(=O)O
reactant | 1,1′-carbonyldiimidazole | 4.75 mmol, 0.77 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 4.39 mmol, 0.94 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
reactant | 1,4-diazabicyclo[2,2,2]octane | 13 mmol, 1.46 g | N12CCN(CC1)CC2 | C6H12N2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | 4-{[(2-tert-butyl-1H-benzoimidazole-4-carbonyl)amino]methyl}-piperidine-1-carboxylic acid tert-butyl ester | 3.18 mmol, 1.32 g, 73% | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC(=O)C1=CC=CC=2NC(=NC21)C(C)(C)C | C23H34N4O3
